US07153878B2
2-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol
To a solution of 2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propionaldehyde (2.0 g, 6.68 mmol) in ethanol (30 mL) is added to NaBH, (0.25 g, 6.6 mmol) in portions at 0° C. The reaction is kept at 0° C. for 15 minutes and warmed up to room temperature for 2 hours. The reaction is quenched using water, extracted with ethyl acetate, dried over sodium sulfate. Concentration and column chromatography on silica gel eluted with hexanes and ethyl acetate gave the title compound (2.0 g).

reactant | 2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propionaldehyde | 6.68 mmol, 2.0 g | CC=1N=C(SC1C(C=O)C)C1=CC=C(C=C1)C(F)(F)F | C14H12F3NOS
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol | 2.0 g | CC=1N=C(SC1C(CO)C)C1=CC=C(C=C1)C(F)(F)F | C14H14F3NOS
